US04182766
8.7 g of 2-hydroxymethyl-5-methyl-pyridine were added dropwise at a reaction temperature of 0°-10° to 18 ml of thionyl chloride. The reaction solution was next stirred for 15 hours at room temperature and then concentrated by evaporation on a rotary evaporator. The residue was treated with activated charcoal in alcohol and crystallised from alcohol-ether. 11.5 g of 2-chloromethyl-5-methylpyridine-hydrochloride having a m.p. 145°-146° was obtained.

reactant | 2-hydroxymethyl-5-methyl-pyridine | 8.7 g | OCC1=NC=C(C=C1)C | C7H9NO
reactant | thionyl chloride | 18 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-chloromethyl-5-methylpyridine-hydrochloride | 11.5 g | Cl.ClCC1=NC=C(C=C1)C | InChI=1S/C7H8ClN.ClH/c1-6-2-3-7(4-8)9-5-6;/h2-3,5H,4H2,1H3;1H
